US08053431B2
To a solution of 1-(2-azidoethyl)-1H-benzimidazole-5-carboxylic acid (1 g, 0.00433 mol) in dry DMF (7.0 mL) was added with stirring HOBt (0.876 g, 0.00649 mol), DIPEA (2.25 mL, 0.0129 mol), decahydroquinoline (0.902 g, 0.00649 mol) at 0° C. To the resulting mixture was added EDCl (1.24 g, 0.00649 mol) and stirred for 15 h at an ambient temperature. The reaction mixture was diluted with ice water (100 mL) and extracted with EtOAc (3×50 mL). The combined organic phases were washed with water, dried (Na2SO4) and the solvent evaporated to give [1-(2-azidoethyl)-1H-benzimidazol-5-yl]-(octahydroquinolin-1-yl)methanone (1.5 g, 98%).

reactant | 1-(2-azidoethyl)-1H-benzimidazole-5-carboxylic acid | 0.00433 mol, 1 g | N(=[N+]=[N-])CCN1C=NC2=C1C=CC(=C2)C(=O)O | C10H9N5O2
reactant | HOBt | 0.00649 mol, 0.876 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.0129 mol, 2.25 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | decahydroquinoline | 0.00649 mol, 0.902 g | N1CCCC2CCCCC12 | C9H17N
reactant | EDCl | 0.00649 mol, 1.24 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
product | [1-(2-azidoethyl)-1H-benzimidazol-5-yl]-(octahydroquinolin-1-yl)methanone | 1.5 g, 98% | N(=[N+]=[N-])CCN1C=NC2=C1C=CC(=C2)C(=O)N2CCCC1CCCCC21 | C19H24N6O
